data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-c1ccc(Cl)cc1_2-C(c1ccccc1)c2ccccc2_3-CC_4-C1CCCCC1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(C(c1ccccc1)c2ccccc2)(O)C(O)(CC)(C1CCCCC1)"],"products_smiles": ["C(=O)(c1ccc(Cl)cc1)C(C(c1ccccc1)c2ccccc2)(CC)(C1CCCCC1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(Cl)cc1)(C(c1ccccc1)c2ccccc2)(O)C([OH2+])(CC)(C1CCCCC1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccc(Cl)cc1)(C(c1ccccc1)c2ccccc2)(O)[C+](CC)(C1CCCCC1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc(Cl)cc1)C(C(c1ccccc1)c2ccccc2)(CC)(C1CCCCC1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-113_1-CCCC(C)C_2-C_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-C_5-C(F)(F)F","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(CCCC(C)C)#[N+][O-]","C/C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(/C)C(F)(F)F"],"products_smiles": ["C1(CCCC(C)C)=NOC(C)(C(F)(F)F)C1(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CCCC(C)C)=NOC(C)(C(F)(F)F)C1(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
